US07632832B2
Step A. 1-t-Butoxycarbonyl-4-(3-chloropropylamino)piperidine
A solution of 4-amino-1-t-butoxycarbonylpiperidine (200 mg, 1.0 mmol) in tetrahydrofuran (5 mL) was treated with 3-chloropropyl isocyanate (0.080 mL, 1.0 mmol) overnight. The solvent was evaporated to provide the title compound as a white solid (270 mg).

reactant | 4-amino-1-t-butoxycarbonylpiperidine | 1.0 mmol, 200 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-chloropropyl isocyanate | 1.0 mmol, 0.080 mL | ClCCCN=C=O | C4H6ClNO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-(3-chloropropylamino)piperidine | 270 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCCCl | C13H25ClN2O2
